US07838483B2
A solution of 3-(2-(2-(dimethylamino)ethoxy)ethoxy)propanenitrile (0.5 g, 2.68 mmol) and NH2OH (50% in water, 0.25 cm3, 4 mmol) in EtOH (10 cm3) were stirred at 80° C. for 24 hours, after which the solvent and excess hydroxylamine were removed by rotary evaporator. The residue was freeze-dried and kept in high vacuum line for several hours to give give 3-(2-(2-(dimethylamino)ethoxy)ethoxy)-N′-hydroxypropanimidamide (0.53 g, 90.1%) as a light yellow oil.

reactant | 3-(2-(2-(dimethylamino)ethoxy)ethoxy)propanenitrile | 2.68 mmol, 0.5 g | CN(CCOCCOCCC#N)C | C9H18N2O2
reactant | NH2OH | 4 mmol, 0.25 cm3 | NO | H3NO
solvent | EtOH | 10 cm3 | CCO | C2H6O
product | 3-(2-(2-(dimethylamino)ethoxy)ethoxy)-N′-hydroxypropanimidamide | 0.53 g, 90.1% | CN(CCOCCOCCC(N)=NO)C | C9H21N3O3
